US04235781
A mixture of 4,8-dimethyl-7-hydroxycoumarin (8.00 g., 42.1 m mole); anhydrous potassium carbonate (18.1 g., 130 m mole); 2,3-dichloropropene (33.6 g., 302 m mole); and acetone (600 ml.) was stirred and heated under reflux for twenty-four hours. The reaction mixture was concentrated to ca. 200 ml., filtered, and the inorganic salts were washed with acetone. Evaporation of the combined filtrate and washing under reduced pressure left a tan-colored residue (11.30 g.). Recrystallization from aqueous methanol gave a 77% yield of 4,8-dimethyl-7-(2'-chloroallyloxy)coumarin as small, off-white needles (8.55 g., m.p. 117.5°-120° C.). Another recrystallization did not change the m.p. but gave an analytical sample.

reactant | 4,8-dimethyl-7-hydroxycoumarin | 8.00 g | CC1=CC(OC2=C(C(=CC=C12)O)C)=O | C11H10O3
reactant | potassium carbonate | 18.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dichloropropene | 33.6 g | ClC(=C)CCl | C3H4Cl2
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | 4,8-dimethyl-7-(2'-chloroallyloxy)coumarin | 77% yield | CC1=CC(OC2=C(C(=CC=C12)OCC(=C)Cl)C)=O | C14H13ClO3
